Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left-sided flank pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ yo F who presents with left-sided flank pain 
and large ecchymosis s/p mechanical fall 4 days ago. She was 
walking in her home when she slipped over a rug. Her left-side 
rammed into a coffee table, and she fell on her knees. She 
denies hitting her head. She was managing the ensuing pain at 
home with Tylenol, but went to ___ yesterday, where 
workup
showed L-sided rib fractures and L-hemothorax. Pain management 
included oxymorphone. She was then referred here.

Pain is currently 7 or 8 out of 10 pain, but only when she is 
moving to sit or stand up. Pain is localized to her left flank, 
where a large ecchymosis is prominent. She has no pain while 
sitting or ambulating. Upon exam she was found sitting upright 
in a chair and appeared comfortable, in no acute distress.

 
Past Medical History:
PMH:
 -High cholesterol
 -Hypertension
 -Melanoma - ___ year ago, small lesion on face, excised
 -Vertigo-sporadic
 -Panic attacks

Past Surg Hx:
 -Melanoma face lesion excision- ___ year ago
 -Kidney stone removal - many years ago

 
Social History:
___
Family History:
No fam hx involving vertigo
 
Physical Exam:
Admission Physical Exam:
 Gen: Well appearing, sitting upright, in no acute distress
 Vitals: 97.8T 100HR 20RR 152/73BP 94%O2satRA Pain8/10
 HEENT: Pupil reaction exam denied. Hearing intact. Oral mucosa
moist and clean.
 Cardiac: RRR, no MRGs, Normal S1/S2
 Pulm: CTAB, no respiratory distress, no dullness or tympany to
percussion
 Abd: Non-distended, non-tender, normal bowel sounds
 MSK: Large ecchymosis on left flank from left hip up to T8 
level
near costal margin. Purple-violaceous in color. Tender to
palpation. Lower extremity edema bilaterally, 1+ pitting edema.
 Neuro: A&Ox3, Motor and sensory function intact

Discharge Physical Exam:
VS: 98.9T  79HR  121/73BP  20RR 96RA
GEN: Well appearing, in no acute distress
HEENT: NCAT, oral mucosa wnl
CV: RRR, normal S1/S2
PULM: CTAB, no respiratory distress
ABD: soft, nontender, nondistended, no masses
EXT: wwp, large tender ecchymosis on L flank, some edema in BLE
 
Pertinent Results:
IMAGING:

Radiology Report CHEST (PA & LAT) Study Date of ___ 9:00
___ 
FINDINGS:  
  
Lung volumes are low.  There are streaky bibasilar opacities 
most
consistent with atelectasis.  Known left-sided pleural effusion 
is not
clearly delineated in the setting of low lung volumes and 
atelectasis and is not likely significantly changed.  Left-sided 
rib fractures are also better seen by CT.  There is no 
pneumothorax.

Previous CXR at ___ noted left sided fractures in
ribs 6,7,8, and 9.

___: CXR (PA&LAT):
Lung volumes are low.  There are streaky bibasilar opacities 
most consistent with atelectasis.  Known left-sided pleural 
effusion is not clearly delineated in the setting of low lung 
volumes and atelectasis and is not likely significantly changed. 
 Left-sided rib fractures are also better seen by CT.  There is 
no pneumothorax. 

LABS:

___ 05:15AM   GLUCOSE-134* UREA N-19 CREAT-0.6 SODIUM-144 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-25 ANION GAP-17
___ 05:15AM   CALCIUM-9.1 PHOSPHATE-4.4 MAGNESIUM-1.9
___ 05:15AM   WBC-6.3 RBC-4.42 HGB-11.0* HCT-36.6 MCV-83 
MCH-24.9* MCHC-30.1* RDW-16.9* RDWSD-50.4*
___ 05:15AM   PLT COUNT-175
___ 05:15AM   ___ PTT-27.4 ___
___ 12:56AM   WBC-10.0 RBC-4.84 HGB-12.0 HCT-40.1 MCV-83 
MCH-24.8* MCHC-29.9* RDW-17.0* RDWSD-50.0*
___ 12:56AM   NEUTS-71.9* ___ MONOS-7.3 EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-7.16* AbsLymp-1.93 AbsMono-0.73 
AbsEos-0.09 AbsBaso-0.03
___ 12:56AM   PLT COUNT-240
 
Brief Hospital Course:
Ms. ___ is an ___ y/o F who presented to ___ with left-sided 
flank pain and large ecchymosis s/p mechanical fall 4 days ago. 
She was
walking in her home when she slipped over a rug. Her left-side
rammed into a coffee table, and she fell on her knees. She 
denies
hitting her head. She was managing the ensuing pain at home with
Tylenol, but went to ___ yesterday, where workup
showed L-sided rib fractures and L-hemothorax. Pain management
included oxymorphone. She was then referred here.

Pain is currently 7 or 8 out of 10 pain, but only when she is
moving to sit or stand up. Pain is localized to her left flank,
where a large ecchymosis is prominent. She has no pain while
sitting or ambulating. Upon exam she was found sitting upright 
in
a chair and appeared comfortable, in no acute distress.

___ was consulted and recommended discharge to home with home ___ 
given pt is independent at baseline and has a supportive family. 
 

On ___, Ms ___ was ambulating with assistance of a 
rolling walker, tolerating a regular diet, and her pain was well 
controlled. She was discharged home accordingly. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. aMILoride 5 mg PO DAILY 
2. Amitriptyline 10 mg PO QHS 
3. Atorvastatin 10 mg PO QPM 
4. CloNIDine 0.1 mg PO BID 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. LORazepam 0.5 mg PO QHS:PRN sleep 
7. Losartan Potassium 50 mg PO DAILY 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Potassium Chloride 80 mEq PO DAILY 
10. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % place one patch to the painful area every 
morning Disp #*10 Patch Refills:*0 
3.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every four 
(4) to six (6) hours Disp #*20 Tablet Refills:*0 
4.  aMILoride 5 mg PO DAILY  
5.  Amitriptyline 10 mg PO QHS  
6.  Atorvastatin 10 mg PO QPM  
7.  CloNIDine 0.1 mg PO BID  
8.  Hydrochlorothiazide 25 mg PO DAILY  
9.  LORazepam 0.5 mg PO QHS:PRN sleep  
10.  Losartan Potassium 50 mg PO DAILY  
11.  Metoprolol Succinate XL 25 mg PO DAILY  
12.  Potassium Chloride 80 mEq PO DAILY 
Hold for K >  
13.  Sertraline 100 mg PO DAILY  
14.Rolling Walker
Dx: Gait instability
Px: Good
Duration: 13 (thirteen) months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
L ___ rib fractures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ for 
your rib fractures. You are recovering well and are now ready 
for discharge. Please follow the instructions below to continue 
your recovery:
* Your injury caused L ___ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___